US05204365
Methyl 2-[3-(phenylchloromethyl)phenyl]propionate (IIc with R1 =CH3 and R2 =H)
Methyl 2-[3-(phenylhydroximethyl)phenyl]propionate (128 g) was dissolved in 100 mL of dry methylene chloride and the solution was cooled to 0° C. Then 41 mL of thionyl chloride in 50 mL methylene chloride were added along 1 hour, keeping the reaction temperature between 5 and 10° C. After staying for 1 hour at 5° C. and 1 hour at room temperature, solvents were removed and the residue (130.5 g, yellow oil) was vacuum distilled, yielding 103 g (75% yield) of the title compound as a yellow transparent liquid, b.p. 158-163° C./1 tor. In the 200 MHz 1H-NMR apparatus the signal of CH3 -- appears as two doublets of similar intensity, indicating the presence of the two possible diasteromers. By following analogous procedures, compounds IIc of Table 3 were obtained.

reactant | Methyl 2-[3-(phenylhydroximethyl)phenyl]propionate | 128 g | C1(=CC=CC=C1)C(C=1C=C(C=CC1)C(C(=O)OC)C)O | C17H18O3
reactant | thionyl chloride | 41 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-[3-(phenylchloromethyl)phenyl]propionate | 103 g, 75% yield | C1(=CC=CC=C1)C(C=1C=C(C=CC1)C(C(=O)OC)C)Cl | C17H17ClO2
